US06919315B1
At 0° C., trifluoroacetic acid (20 ml) was added to a solution of N-[(1R)-1-benzyl-2-(4-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester (1.22 g, 3.02 mmol) in dichloromethane (20 ml). The reaction mixture was stirred for 1 h at 0° C. The solvents were removed in vacuo. The residue was dissolved in dichloromethane (70 ml) and the solvent was removed in vacuo. The latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (100 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1), to give 659 mg of (2R)-1-(4-((dimethylamino)methyl)piperidin-1-yl)-2-(methylamino)-3-phenylpropan-1-one.

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(1R)-1-benzyl-2-(4-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester | 3.02 mmol, 1.22 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1CCC(CC1)CN(C)C)CC1=CC=CC=C1)=O | C23H37N3O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R)-1-(4-((dimethylamino)methyl)piperidin-1-yl)-2-(methylamino)-3-phenylpropan-1-one | 659 mg | CN(C)CC1CCN(CC1)C([C@@H](CC1=CC=CC=C1)NC)=O | C18H29N3O
